US05646166
Methyl 5-acetyl-2,6-dimethyl-4-(4-chlorophenyl)-1,4-dihydropyridine-3-carboxylate
5.64 g (40 mmol) of 4-chlorobenzaldehyde, 4.0 g (40 mmol) of 4-aminopent-3-en-2-one and 4.6 g (40 mmol) of methyl acetoacetate are heated to reflux for 12 h in 100 ml of isopropanol. The reaction mixture is allowed to cool and is concentrated. 1.85 g of the title compound crystallize from Et2O.

reactant | 4-chlorobenzaldehyde | 40 mmol, 5.64 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | 4-aminopent-3-en-2-one | 40 mmol, 4.0 g | NC(=CC(C)=O)C | C5H9NO
reactant | methyl acetoacetate | 40 mmol, 4.6 g | C(CC(=O)C)(=O)OC | C5H8O3
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | Methyl 5-acetyl-2,6-dimethyl-4-(4-chlorophenyl)-1,4-dihydropyridine-3-carboxylate | C(C)(=O)C=1C(C(=C(NC1C)C)C(=O)OC)C1=CC=C(C=C1)Cl | C17H18ClNO3
